US07994203B2
Step 2: N′-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yl]-N′-tert-butoxycarbonyl-hydrazinecarboxylic acid tert-butyl ester
To a stirring solution of 7-bromo-3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole (710 mg, 1.972 mmol) in THF (15.5 ml) under N2 at −78° C. is added n-butyllithium (0.789 ml, 1.972 mmol) dropwise; the temperature is maintained below −70° C. for the addition and then the reaction mixture is stirred for 5 mins at −78° C. before the addition of di-tert-butyl azodicarboxylate (545 mg, 2.366 mmol) in THF (1.5 ml); the temperature is maintained below −60° C. for the period of the addition. After stirring at −78° C. for 30 mins, the reaction is quenched with sat. ammonium chloride solution and allowed to warm to RT. Ammonium chloride solution (sat.) is added and the mixture is extracted with EtOAc (2×100 ml). The combined organics extracts are washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified ISCO chromatography eluting (0 to 100%) EtOAci iso-hexane on a 40 g SiO2 cartridge to give the title compound as an orange solid; MS: m/z 511.22 [M+H]+

reactant | 7-bromo-3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole | 1.972 mmol, 710 mg | BrC=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)Cl)Cl)C)C | C13H9BrCl2N2O
reactant | n-butyllithium | 1.972 mmol, 0.789 ml | C(CCC)[Li]
reactant | di-tert-butyl azodicarboxylate | 2.366 mmol, 545 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 15.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | N′-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yl]-N′-tert-butoxycarbonyl-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NN(C(=O)OC(C)(C)C)C=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)Cl)Cl)C)C | C23H28Cl2N4O5
